US04505905
3-Phenylthio-7-oxobicyclo[3.2.0]hept-2-en-2-carboxylic Acid (17)
A solution of 150 mg of 3-phenylthio-7-oxobicyclo[3.2.0]hept-2-en-2-carboxylic acid, diphenylmethyl ester, and 135 mg of anisole in 3 mL of trifluoroacetic acid was stirred at room temperature for 15 min. The solvent was removed with a stream of nitrogen leaving a residual oil which when triturated with ether afforded 77 mg (84%) of colorless crystals of 3-phenylthio-7-oxobicyclo[3.2.0]hept-2-en-2-carboxylic acid. NMR (220 MHz; CDCl3): δ 2.27 (1H, dd, J=17, 3), 2.75 (1H, m), 2.68 (1H, m), 3.0-3.25 (1H, m), 4.50 (1H, m), 7.2-7.4 (3H, m), and 7.4-7.6 (2H, m).

reactant | 3-phenylthio-7-oxobicyclo[3.2.0]hept-2-en-2-carboxylic acid, diphenylmethyl ester | 150 mg | C1(=CC=CC=C1)SC1=C(C2C(CC2C1)=O)C(=O)OC(C1=CC=CC=C1)C1=CC=CC=C1 | C27H22O3S
reactant | anisole | 135 mg | C1(=CC=CC=C1)OC | C7H8O
solvent | trifluoroacetic acid | 3 mL | FC(C(=O)O)(F)F | C2HF3O2
product | 3-Phenylthio-7-oxobicyclo[3.2.0]hept-2-en-2-carboxylic Acid | 77 mg, 84% | C1(=CC=CC=C1)SC1=C(C2C(CC2C1)=O)C(=O)O | C14H12O3S
